US08685992B2
A solution of 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid (0.213 g, 0.5 mmol) and phenylenediamine (0.108 g, 1.0 mmol) in DMF (10 ml) was cooled to 0° C. Triethylamine (0.40 ml, 2.87 mol), 1-hydroxybenzotriazole (0.101 g, 0.75 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.144 g, 0.75 mmol) were added subsequently, and the mixture was stirred for 2 h at 0° C., and for an additional 96 h at room temperature. Ethyl acetate (40 ml) was added, and the obtained solution was washed with water (7 ml), Na2S2O3 1N (7 ml, aqueous solution), water (7 ml), NaHCO3 (7 ml, saturated aqueous solution), and NaCl (7 ml, saturated aqueous solution), dried over Na2SO4 and evaporated under reduced pressure, to obtain 0.142 g (0.27 mmol) of N-(4-{[(2-aminophenyl)amino]carbonyl}benzyl)-3-(4-methoxyphenyl)-5-Phenyl-1H-pyrrole-2-carboxamide: Yield 55%; m.p. 142-143° C. (dec); IR 3407, 3296, 1627, 1530, 1493, 1246 cm−1; 1H-NMR (300 MHz, δ ppm, DMSO-d6) 11.54 (s, 1H), 9.61 (s, 1H), 7.95 (d, J=7.8 Hz, 3H), 7.80 (d, J=7.4 Hz, 2H), 7.45-7.38 (m, 6H), 7.26 (t, J=7.3 Hz, 1H), 7.17 (d, J=7.7 Hz, 1H), 6.97 (dt, J=8.0 Hz, J′=1.4 Hz, 1H), 6.90 (d, J=8.7 Hz, 2H), 6.79 (dd, J=7.9 Hz, J′=1.1 Hz, 1H), 6.67 (d, J=2.6 Hz, 1H), 6.60 (dt, J=7.5 Hz, J′=1.0 Hz, 1H), 4.86 (s, 2H), 4.49 (d, J=5.7 Hz, 2H), 3.77 (s, 3H); 13C-NMR (126 MHz, δ ppm, DMSO-d6) 165.0, 161.1, 157.9, 143.0, 142.9, 133.1, 132.9, 131.5, 129.9, 128.6, 127.9, 127.8, 127.7, 127.1, 126.7, 126.6, 126.4, 124.5, 123.3, 122.6, 116.2, 116.1, 113.4, 108.3, 55.0, 42.1.

reactant | 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid | 0.5 mmol, 0.213 g | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C26H22N2O4
reactant | phenylenediamine | 1.0 mmol, 0.108 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Triethylamine | 2.87 mol, 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.75 mmol, 0.101 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.75 mmol, 0.144 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-{[(2-aminophenyl)amino]carbonyl}benzyl)-3-(4-methoxyphenyl)-5-Phenyl-1H-pyrrole-2-carboxamide | 0.27 mmol, 0.142 g, Yield 55% | NC1=C(C=CC=C1)NC(=O)C1=CC=C(CNC(=O)C=2NC(=CC2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C=C1 | C32H28N4O3
